US08633189B2
2-(Trifluoromethoxy)phenol (6.0 g, 32.7 mmol) was dissolved in methylene chloride and triethylamine (9.1 mL, 65.4 mmol). The mixture was cooled to 0° C. and methyl chloroformate (2.8 mL, 36.0 mmol) was added dropwise. The mixture was stirred for 2 h at room temperature then quenched with saturated NH4Cl. The reaction was diluted with water and the aqueous layer extracted with dichloromethane (2×30 mL). The combined extracts were washed with water (100 mL) and brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo to provide methyl 2-(trifluoromethoxy)phenyl carbonate (7.1 g, 92% yield). 1H NMR (400.0 MHz, DMSO-d6) δ7.36-7.26 (m, 4H), 3.93 (s, 3H).

reactant | 2-(Trifluoromethoxy)phenol | 32.7 mmol, 6.0 g | FC(OC1=C(C=CC=C1)O)(F)F | C7H5F3O2
reactant | triethylamine | 65.4 mmol, 9.1 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 36.0 mmol, 2.8 mL | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 2-(trifluoromethoxy)phenyl carbonate | 7.1 g, 92% yield | C(OC)(OC1=C(C=CC=C1)OC(F)(F)F)=O | C9H7F3O4
